US08309580B2
(2) ethyl 2-ethyl-5-(1-ethylpropyl)thiophene-3-carboxylate
To a solution of ethyl 2-ethyl-5-(1-ethyl-1-hydroxypropyl)thiophene-3-carboxylate (3.71 g) synthesized above in trifluoroacetic acid (35 mL) was added triethylsilane (6.61 mL), and the mixture was stirred at room temperature for 2 hr and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane alone) to give the title compound (2.28 g, 65%) as a colorless oil.

reactant | ethyl 2-ethyl-5-(1-ethyl-1-hydroxypropyl)thiophene-3-carboxylate | 3.71 g | C(C)C=1SC(=CC1C(=O)OCC)C(CC)(O)CC | C14H22O3S
reactant | triethylsilane | 6.61 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 35 mL | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 2-ethyl-5-(1-ethylpropyl)thiophene-3-carboxylate | 2.28 g, 65% | C(C)C=1SC(=CC1C(=O)OCC)C(CC)CC | C14H22O2S
